US03980700
To a cold solution of 0.8 part of potassium hydroxide in 10 parts of water is added 2 parts of ethyl 3-oxooctanoate and that mixture is stirred at 0°-5° until homogeneous. The homogeneous mixture is kept at 0°-5° for about 72 hours, then is neutralized to pH 7 by the addition of concentrated aqueous citric acid. To that mixture is then added successively 2.5 parts by volume of 1 M citrate buffer of pH 4.8 and a solution of 2.5 parts of 2-formyl-3-hydroxy-5-oxocyclopent-1-eneheptanoic acid in 4.8 parts of methanol containing 2.5 parts of water. The pH is adjusted to 4.5-5.0 and the mixture is stirred for approximately 3 hours at about 35°, then is allowed to stand at room temperature for about 16 hours. The reaction mixture is extracted with ether and the ether layer is separated, dried over anhydrous sodium sulfate and stripped of solvent under reduced pressure to afford, as a pale yellow glass, 11,13-dihydroxy-9,15-dioxoprost-8(12)-enoic acid, which compound displays an ultraviolet absorption maximum at about 233 millimicrons with a molecular extinction coefficient of about 11,500.

reactant | potassium hydroxide | [OH-].[K+]
reactant | ethyl 3-oxooctanoate | O=C(CC(=O)OCC)CCCCC | C10H18O3
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
reactant | citrate | 1 M | C(CC(O)(C(=O)[O-])CC(=O)[O-])(=O)[O-]
reactant | 2-formyl-3-hydroxy-5-oxocyclopent-1-eneheptanoic acid | C(=O)C1=C(C(CC1O)=O)CCCCCCC(=O)O | C13H18O5
solvent | water | O | H2O
solvent | methanol | CO | CH4O
product | 11,13-dihydroxy-9,15-dioxoprost-8(12)-enoic acid | OC1CC(C(CCCCCCC(=O)O)=C1C(CC(CCCCC)=O)O)=O | C20H32O6
